US04692444
A mixture of 6-chloro-2,3-dihydro-3-dimethylaminomethylene-4H-1-benzothiopyran-4-one (7 g), hydrazine hydrate (2.01 ml), and acetic acid (2.37 ml) in methanol (140 ml) was stirred at room temperature for 5 hours and then evaporated in vacuo. To the residue was added aqueous sodium bicarbonate and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The residue solid was recrystallized from ethyl acetate to give 8-chloro-1,4-dihydro[1]benzothiopyrano[4,3-c]pyrazole (2.85 g).

reactant | 6-chloro-2,3-dihydro-3-dimethylaminomethylene-4H-1-benzothiopyran-4-one | 7 g | ClC=1C=CC2=C(C(C(CS2)=CN(C)C)=O)C1 | C12H12ClNOS
reactant | hydrazine hydrate | 2.01 ml | O.NN
reactant | acetic acid | 2.37 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 140 ml | CO | CH4O
product | 8-chloro-1,4-dihydro[1]benzothiopyrano[4,3-c]pyrazole | 2.85 g | ClC=1C=CC2=C(C1)C=1NN=CC1CS2 | C10H7ClN2S
